US08664257B2
Step 3: (S)-3-{[5-(3,3-Dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-3-o-tolyl-propionic acid
324 mg (0.675 mmol) of 5-(3,3-dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid were dissolved in 5 ml of DMF and 0.675 mmol of TOTU and 1.35 mmol of EDIA were added. The mixture was stirred for 5 min at room temperature, then 0.675 mmol of (S)-3-amino-3-(2-methyl-phenyl)-propionic acid were added and the mixture was stirred overnight at room temperature. After evaporation of the solvent, the residue was subjected to preparative HPLC to give the title compound in a yield of 67%.

reactant | 5-(3,3-dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid | 0.675 mmol, 324 mg | CC(C(COC1=CC(=NN1C1=C(C=CC=C1)F)C(=O)O)=O)(C)C | C16H17FN2O4
reactant | TOTU | 0.675 mmol | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | (S)-3-amino-3-(2-methyl-phenyl)-propionic acid | 0.675 mmol | N[C@@H](CC(=O)O)C1=C(C=CC=C1)C | C10H13NO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (S)-3-{[5-(3,3-Dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-3-o-tolyl-propionic acid | yield of 67% | CC(C(COC1=CC(=NN1C1=C(C=CC=C1)F)C(=O)N[C@@H](CC(=O)O)C1=C(C=CC=C1)C)=O)(C)C | C26H28FN3O5
